US04022833
In a manner similar to that of Example 1, condensation of 1-nonene oxide (97.4 g.) and hexamethylenediamine (39.8 g.) and recrystallization of the resulting product (67g.) from ethanol afforded N,N'-(1,6-hexylene)-bis[2-hydroxynonylamine] (I: R= CH3 (CH2)6, R' = H, X= (CH2)6, Z= H) (67 g., m.p. 122°-129.2° C.).

reactant | 1-nonene oxide | 97.4 g | C1C(CCCCCCC)O1 | C9H18O
reactant | hexamethylenediamine | 39.8 g | NCCCCCCN | C6H16N2
solvent | ethanol | C(C)O | C2H6O
product | N,N'-(1,6-hexylene)-bis[2-hydroxynonylamine] | C(CCCCCNCC(CCCCCCC)O)NCC(CCCCCCC)O | C24H52N2O2
